US07544695B2
Preparation of tert-Butyl [2-Amino-4-(2-thienyl)phenyl]carbamate (E)
A mixture of tert-butyl (4-bromo-2-nitrophenyl)carbamate (19.4 g, 61.2 mmol), thiophene-2-boronic acid (9.94 g, 77.7 mmol) and K2CO3 (22.2 g, 160 mmol) in 60 mL of dioxane and 60 mL of water was degassed by bubbling nitrogen through the mixture for 30 min. Next, Pd[PPh3]4 (5.25 g, 4.53 mmol) was added and the heterogeneous mixture was warmed to reflux for 20 h. The mixture was cooled and diluted with ethyl acetate, washed with water and brine, dried (MgSO4), and concentrated. The resulting solid was dissolved in diethylether (500 mL) and filtered through a pad of silica. The solvents were removed under reduced pressure to yield the yellow-brown solid: 1H NMR (600 MHz, CDCl3): δ 9.65 (s, 9H), 8.58 (d, J=8.8 Hz, 1H), 8.39 (d, J=2.1 Hz, 1H), 7.81 (dd, J=8.8, 1.8 Hz, 1 H), 7.32 (m, 2H), 7.09 (dd, J=5.3, 3.8 Hz, 1H), 1.54 (s, 9H); MS (ESI+): cal'd [M+Na]+ 343.1, obs'd 343.1.

reactant | tert-butyl (4-bromo-2-nitrophenyl)carbamate | 61.2 mmol, 19.4 g | BrC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C11H13BrN2O4
reactant | thiophene-2-boronic acid | 77.7 mmol, 9.94 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | K2CO3 | 160 mmol, 22.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | 60 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl [2-Amino-4-(2-thienyl)phenyl]carbamate | NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C15H18N2O2S
